US08404866B2
A sample of the (3S,4S)—N-Boc-3-azido-4-hydroxypyrrolidine (80 mg, 0.35 mmol) was dissolved in trifluoroacetic acid (1 mL) and was stirred until no starting material was detected on TLC (25% ethyl acetate in hexane). The solution was evaporated under reduce pressure and the residue was dissolved in CH2Cl2 (2 mL). The solution was cooled to 0° C., triethylamine (117 μL, 0.84 mmol) and Cbz-Cl (60 mg, 0.35 mmol) were added, and the resulting solution was stirred for 2 hr at room temperature. The reaction mixture was washed with water, dried over Na2SO4, and evaporated. The residue was purified by flash chromatography (25% ethyl acetate in hexane) to give (3S,4S)—N-Cbz-3-azido-4-hydroxypyrrolidine (89 mg, 97%): [α]20D=+ 16.1° (c=1.00, CHCl3). Lit. [Kamal, A.; Shaik, A. A.; Sandbhor, M.; Malik, M. S.; Kaga, H. Tetrahedron Lett. 2004, 45, 8057-8059] for (3S,4S)—N-Cbz-3-azido-4-hydroxypyrrolidine: [0]25D=+14.3° (c=1.06, CHCl3).

reactant | (3S,4S)—N-Boc-3-azido-4-hydroxypyrrolidine | 0.35 mmol, 80 mg | C(=O)(OC(C)(C)C)N1C[C@@H]([C@H](C1)O)N=[N+]=[N-] | C9H16N4O3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | triethylamine | 0.84 mmol, 117 μL | C(C)N(CC)CC | C6H15N
reactant | Cbz-Cl | 0.35 mmol, 60 mg | C1=CC=C(C=C1)COC(=O)Cl | C8H7ClO2
solvent | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | hexane | CCCCCC | C6H14
product | (3S,4S)—N-Cbz-3-azido-4-hydroxypyrrolidine | 89 mg, 97% | C(=O)(OCC1=CC=CC=C1)N1C[C@@H]([C@H](C1)O)N=[N+]=[N-] | C12H14N4O3
